**************************************************
* Manufacturer:          Würth Elektronik
* Kinds:                 Aluminum Hybrid Polymer Capacitors
* Matchcode:             WCAP-HSG5
* Library Type:          Pspice
* Version:               rev23a
* Created/modified by:   Ella
* Date and Time:         4/26/2023
* Team:                  eiSos EDA Service  
* Contact:               libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG	
* All Rights Reserved.	
**************************************************	
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy	
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on	
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.	
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.	
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.	
**************************************************
.subckt HSG5_875575559001_33uF 1 2
Rser 1 3 0.0216
Lser 2 4 0.00000000224
C1 3 4 0.000033
Rpar 3 4 3012048.19277108
.ends HSG5_875575559001_33uF
*******
.subckt HSG5_875575759001_10uF 1 2
Rser 1 3 0.0284
Lser 2 4 0.0000000022
C1 3 4 0.00001
Rpar 3 4 10000000
.ends HSG5_875575759001_10uF
*******
.subckt HSG5_875575344001_100uF 1 2
Rser 1 3 0.0178
Lser 2 4 0.000000003
C1 3 4 0.0001
Rpar 3 4 1000000
.ends HSG5_875575344001_100uF
*******
.subckt HSG5_875575344003_150uF 1 2
Rser 1 3 0.026
Lser 2 4 0.000000003
C1 3 4 0.00015
Rpar 3 4 666666.666666667
.ends HSG5_875575344003_150uF
*******
.subckt HSG5_875575544002_56uF 1 2
Rser 1 3 0.028
Lser 2 4 0.0000000029
C1 3 4 0.000056
Rpar 3 4 1785714.28571429
.ends HSG5_875575544002_56uF
*******
.subckt HSG5_875575744002_22uF 1 2
Rser 1 3 0.033
Lser 2 4 0.00000000285
C1 3 4 0.000022
Rpar 3 4 4545454.54545455
.ends HSG5_875575744002_22uF
*******
.subckt HSG5_875575844001_10uF 1 2
Rser 1 3 0.01065
Lser 2 4 0.000000003
C1 3 4 0.00001
Rpar 3 4 10000000
.ends HSG5_875575844001_10uF
*******
.subckt HSG5_875575345004_220uF 1 2
Rser 1 3 0.0108
Lser 2 4 0.0000000032
C1 3 4 0.00022
Rpar 3 4 454545.454545455
.ends HSG5_875575345004_220uF
*******
.subckt HSG5_875575545003_100uF 1 2
Rser 1 3 0.014
Lser 2 4 0.0000000029
C1 3 4 0.0001
Rpar 3 4 1000000
.ends HSG5_875575545003_100uF
*******
.subckt HSG5_875575745003_33uF 1 2
Rser 1 3 0.019
Lser 2 4 0.000000003
C1 3 4 0.000033
Rpar 3 4 3030303.03030303
.ends HSG5_875575745003_33uF
*******
.subckt HSG5_875575845002_22uF 1 2
Rser 1 3 0.013
Lser 2 4 0.0000000027
C1 3 4 0.000022
Rpar 3 4 4532374.10071942
.ends HSG5_875575845002_22uF
*******
.subckt HSG5_875575553004_220uF 1 2
Rser 1 3 0.0068
Lser 2 4 0.0000000031
C1 3 4 0.00022
Rpar 3 4 454545.454545455
.ends HSG5_875575553004_220uF
*******
.subckt HSG5_875575753005_68uF 1 2
Rser 1 3 0.008
Lser 2 4 0.000000003
C1 3 4 0.000068
Rpar 3 4 1470588.23529412
.ends HSG5_875575753005_68uF
*******
.subckt HSG5_875575853003_33uF 1 2
Rser 1 3 0.0069
Lser 2 4 0.0000000029
C1 3 4 0.000033
Rpar 3 4 3028846.15384615
.ends HSG5_875575853003_33uF
*******
.subckt HSG5_875575853004_47uF 1 2
Rser 1 3 0.008
Lser 2 4 0.000000003
C1 3 4 0.000047
Rpar 3 4 2128378.37837838
.ends HSG5_875575853004_47uF
*******
.subckt HSG5_875575357006_330uF 1 2
Rser 1 3 0.0073
Lser 2 4 0.000000003
C1 3 4 0.00033
Rpar 3 4 303030.303030303
.ends HSG5_875575357006_330uF
*******
.subckt HSG5_875575357008_470uF 1 2
Rser 1 3 0.0072
Lser 2 4 0.0000000044
C1 3 4 0.00047
Rpar 3 4 212765.957446809
.ends HSG5_875575357008_470uF
*******
.subckt HSG5_875575357010_560uF 1 2
Rser 1 3 0.0072
Lser 2 4 0.000000003
C1 3 4 0.00056
Rpar 3 4 178571.428571429
.ends HSG5_875575357010_560uF
*******
.subckt HSG5_875575557006_330uF 1 2
Rser 1 3 0.008
Lser 2 4 0.0000000045
C1 3 4 0.00033
Rpar 3 4 303030.303030303
.ends HSG5_875575557006_330uF
*******
.subckt HSG5_875575757004_56uF 1 2
Rser 1 3 0.006
Lser 2 4 0.0000000048
C1 3 4 0.000056
Rpar 3 4 1785714.28571429
.ends HSG5_875575757004_56uF
*******
.subckt HSG5_875575757007_100uF 1 2
Rser 1 3 0.009
Lser 2 4 0.0000000038
C1 3 4 0.0001
Rpar 3 4 1000000
.ends HSG5_875575757007_100uF
*******
.subckt HSG5_875575857006_56uF 1 2
Rser 1 3 0.0057
Lser 2 4 0.0000000049
C1 3 4 0.000056
Rpar 3 4 1784702.54957507
.ends HSG5_875575857006_56uF
*******
.subckt HSG5_875575857007_68uF 1 2
Rser 1 3 0.0087
Lser 2 4 0.0000000043
C1 3 4 0.000068
Rpar 3 4 1471962.61682243
.ends HSG5_875575857007_68uF
*******
.subckt HSG5_875575957003_22uF 1 2
Rser 1 3 0.0074
Lser 2 4 0.0000000045
C1 3 4 0.000022
Rpar 3 4 4545454.54545455
.ends HSG5_875575957003_22uF
*******
.subckt HSG5_875575561007_470uF 1 2
Rser 1 3 0.0062
Lser 2 4 0.000000004
C1 3 4 0.00047
Rpar 3 4 212765.957446809
.ends HSG5_875575561007_470uF
*******
.subckt HSG5_875575961005_33uF 1 2
Rser 1 3 0.0074
Lser 2 4 0.0000000042
C1 3 4 0.000033
Rpar 3 4 3030303.03030303
.ends HSG5_875575961005_33uF
*******
